US05179100
3,4-Dihydroacridin-1(2H)-one (19.43 g) was refluxed in N,N-dimethylformamide dimethyl acetal (48.57 ml) and triethylamine (13.76 ml) for 10 hours. The reaction was concentrated and thereafter, triturated first with diethyl ether/pentane and then with diethyl ether, to yield 22.43 g of 2-(dimethylaminomethylene)-3,4-dihydroacridin-1(2H)-one. This was combined with an additional 1.07 g of compound and refluxed in hydrazine (12.68 ml) and ethanol (372 ml) for 2.5 hours. The reaction was cooled, concentrated, and triturated with diethyl ether to yield 20.67 g of a pale orange crystalline solid. A 3.5 g portion was recrystallized from methanol and dried under high vacuum and refluxing xylenes for 30 hours to yield 1.60 g of an off-white crystalline solid, mp 248°-248.5° C.

reactant | 3,4-Dihydroacridin-1(2H)-one | 19.43 g | C1(CCCC2=NC3=CC=CC=C3C=C12)=O | C13H11NO
reactant | triethylamine | 13.76 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide dimethyl acetal | 48.57 ml | COC(N(C)C)OC | C5H13NO2
product | 2-(dimethylaminomethylene)-3,4-dihydroacridin-1(2H)-one | 22.43 g | CN(C)C=C1C(C2=CC3=CC=CC=C3N=C2CC1)=O | C16H16N2O
